US09447044B2
Step A: (E)-3-(4-benzyloxy-phenyl)-2-methyl-acrylic acid ethyl ester
Carbethoxyethylidene triphenylphosphorane (1.02 g, 2.81 mmol) was dissolved in anhydrous THF (25 mL), and 4-benzyloxy-benzaldehyde (0.5 g, 2.36 mmol)/THF (10 mL) solution was added dropwise thereto at −78° C. The mixture was heated slowly to room temperature and then stirred for 12 hours. After the termination of the reaction, the reactant was concentrated under reduced pressure. The residue was added with water and then extracted with EtOAc. The organic layer was dried with MgSO4 and purified by column chromatography (eluent, EtOAc/Hex=1/9) to obtain the title compound (0.68 g, 97.4%).

reactant | Carbethoxyethylidene triphenylphosphorane | 2.81 mmol, 1.02 g | C(=O)(OCC)CC=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H23O2P
reactant | 4-benzyloxy-benzaldehyde | 2.36 mmol, 0.5 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (E)-3-(4-benzyloxy-phenyl)-2-methyl-acrylic acid ethyl ester | 0.68 g, 97.4% | C(C)OC(\C(=C\C1=CC=C(C=C1)OCC1=CC=CC=C1)\C)=O | C19H20O3
